US07923561B2
rac-N5-(1H-Indol-4-ylmethyl)-N2-(7-methoxy-indan-1-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=435.4 (M+H+), was prepared in accordance with the general method of example 43 from 5-nitro-2-chloroquinoline, rac-7-methoxy-indane-1-ylamine and indole-4-carbaldehyde.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | rac-7-methoxy-indane-1-ylamine | COC=1C=CC=C2CCC(C12)N | C10H13NO
reactant | indole-4-carbaldehyde | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | rac-N5-(1H-Indol-4-ylmethyl)-N2-(7-methoxy-indan-1-yl)-quinoline-2,5-diamine | N1C=CC2=C(C=CC=C12)CNC=1C=2C=CC(=NC2C=CC1)NC1CCC2=CC=CC(=C12)OC | C28H26N4O
